US08686038B2
9-Nitrooleic acid and 10-nitrooleic acid are two regioisomers of nitrooleic acid (OA-NO2), which are formed by nitration of oleic acid in approximately equal proportions in vivo. The two compounds were purchased from Cayman Chemicals (Ann Arbor, Mich.) (9-nitrooleic acid: Cat#10008042; 10-nitrooleic acid: Cat#10008043) and used as an 1:1 mixture of the isomers.

reactant | 9-Nitrooleic acid | [N+](=O)([O-])/C(/CCCCCCCC(=O)O)=C/CCCCCCCC | C18H33NO4
reactant | 10-nitrooleic acid | [N+](=O)([O-])/C(=C/CCCCCCCC(=O)O)/CCCCCCCC | C18H33NO4
reactant | nitrooleic acid | [N+](=O)([O-])C(C(=O)O)CCCCCC\C=C/CCCCCCCC | C18H33NO4
product | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
